US06403791B1
4-Methoxy-2-(morpholin-4-yl)-benzooxazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)-amide
Starting from 4-methoxy-2-(morpholin-4-yl)-benzooxazole-7-carboxylic acid 4-nitro-phenyl ester (200 mg) and 5-amino-1-methyl-1H-pyrazole-4-carbonitrile (122 mg). Purification by column chromatography on silica eluting with 80% ethyl acetate in heptane followed by 1% methanol in dichloromethane afforded, after trituration with diethyl ether, the title compound as a white solid (132 mg).

reactant | 4-methoxy-2-(morpholin-4-yl)-benzooxazole-7-carboxylic acid 4-nitro-phenyl ester | 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(OC21)N2CCOCC2)OC | C19H17N3O7
reactant | 5-amino-1-methyl-1H-pyrazole-4-carbonitrile | 122 mg | NC1=C(C=NN1C)C#N | C5H6N4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Methoxy-2-(morpholin-4-yl)-benzooxazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)-amide | 132 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(OC21)N2CCOCC2)OC | C18H18N6O4
